US08431695B2
Preparation of 1-{-4-[4-Amino-5-(3-amino-2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidin-1-yl}-2-methylamino-ethanone
To a suspension of (2-(4-[4-Amino-5-(3-amino-2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidin-1-yl)-2-oxo-ethyl)-methyl-carbamic acid tart-butyl ester (30 mg, 0.049 mmol) in anhydrous DCM (1.0 mL) was added trifluoroacetic acid (1.0 mL), and the reaction mixture was stirred at rt. After 1 h, the mixture was poured into EtOAc (75 mL), and the organic phase was washed with aqueous, saturated NaHCO3 solution (3×25 mL), water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. Trituration with DCM-hexane afforded the title compound (24.7 mg, 98.5%) as a pink solid. 1H NMR (300 MHz, DMSO-d6) δ 7.88 (s, 1H), 7.71 (d, 1H), 7.34 to 7.29 (m, 2H), 7.27 to 7.21 (m, 3H), 7.15 (s, 1H), 6.73 (dd, 1H), 6.54 (s, 1H), 6.37 (broad s, 2H), 5.38 (s, 2H), 4.50 (d, 1H), 3.90 (d, 1H), 3.42 to 3.27 (m, 3H), 3.13 (t, 1H), 2.76 to 2.66 (m, 1H), 2.26 (s, 3H), 2.05 to 1.99 (m, 3H), 1.68 to 1.49 (m, 2H); ES-MS m/z 510.1 [M+H]+, RT (min) 1.56.

reactant | (2-(4-[4-Amino-5-(3-amino-2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidin-1-yl)-2-oxo-ethyl)-methyl-carbamic acid | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(CN(C(O)=O)C)=O)C=2C=CC1=C(N(N=C1C2)CC2=CC=CC=C2)N | C29H31N9O3
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-{-4-[4-Amino-5-(3-amino-2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidin-1-yl}-2-methylamino-ethanone | 24.7 mg, 98.5% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(CNC)=O)C=2C=CC1=C(N(N=C1C2)CC2=CC=CC=C2)N | C28H31N9O
